US05834454
A mixture of ethyl 4-methyl-1H-indole-2-carboxylate (8.50 g, 41.8 mmol), 60% sodium hydride (1.67 g, 41.8 mmol) and N,N-dimethylformamide (150 ml) was stirred at room temperature until the reaction mixture became transparent. Subsequently, ethyl 4-bromobutyrate (8.16 g, 41.8 mmol) was added dropwise to the aforesaid mixture and the resulting mixture was stirred at 27°-29° C. for another 8 hours. The reaction mixture was poured into ice water and extracted with ethyl acetate, and the extract solution was washed with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane= 3/97) to obtain ethyl 1-(3-ethoxycarbonylpropyl)-4-methyl-1H-indole-2-carboxylate.

reactant | ethyl 4-methyl-1H-indole-2-carboxylate | 41.8 mmol, 8.50 g | CC1=C2C=C(NC2=CC=C1)C(=O)OCC | C12H13NO2
reactant | sodium hydride | 41.8 mmol, 1.67 g | [H-].[Na+]
reactant | ethyl 4-bromobutyrate | 41.8 mmol, 8.16 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | ethyl 1-(3-ethoxycarbonylpropyl)-4-methyl-1H-indole-2-carboxylate | C(C)OC(=O)CCCN1C(=CC2=C(C=CC=C12)C)C(=O)OCC | C18H23NO4
